
Vin  a1 b1 SIN(0 230 50)
*                         *1/n* => 1/n = 0.0(6) => n = 15
FEntradaTransf a1 b1 VAux 0.06666666666666666666666666666666666666
VAux n1 nAux 0
ESaidaTransf nAux n2 a1 b1 0.06666666666666666666666666666666666666

*RAux needs to be here because of ngspice's limitations:
*Needed to model ideal transformer.
RAux b1 n2 10Meg

D13  n1 n3  diode
D23  n2 n3  diode
D41  0 n1  diode
D42  0 n2  diode

C1  n3 0  25u
*Can try R1 = 10k => Gives really small ripple, but higher cost
R1  n3 out  16.6k

*We'll need 17 diodes? 12/0.7 ~ 17.14
D1  out D1  diode
D2  D1 D2  diode
D3  D2 D3  diode
D4  D3 D4 diode
D5  D4 D5 diode
D6  D5 D6 diode
D7  D6 D7 diode
D8  D7 D8 diode
D9  D8 D9 diode
D10  D9 D10 diode
D11  D10 D11 diode
D12  D11 D12 diode
D13B  D12 D13 diode
*D13 is already defined above
D14  D13 D14 diode
D15  D14 D15 diode
D16  D15 D16 diode
D17  D16 D17 diode
D18  D17 D18 diode
D19 D18 D19 diode
D20 D19 0 diode

*D1P  out D1P  diode
*D2P  D1P D2P  diode
*D3P  D2P D3P  diode
*D4P  D3P D4P diode
*D5P  D4P D5P diode
*D6P  D5P D6P diode
*D7P  D6P 0 diode

*RL out 0 1k

.MODEL  diode d

.CONTROL

	*makes plots in color
	set hcopypscolor=1
	set color0=white
	set color1=black
	set color2=rgb:0/8/7

	run
	tran 0.3m 60m 0m
	meas	tran	vavg	avg		v(out)	from=20m	to=50m
	meas	tran	vmax	max		v(out)	from=20m	to=50m
	meas	tran	vmin	min		v(out)	from=20m	to=50m
    
    print vmax-vmin

	print 1/(44*((vmax-vmin)+abs(vavg-12)+1e-6))

	print vavg/20

    hardcopy spice_t3.ps V(out) V(n3)
	echo spice_t3_FIG

	hardcopy spice_t3_2.ps V(out)-12
	echo spice_t3_2_FIG

	quit
.ENDC